US07119109B2
d) 2-[1-Ethyl-3-(methylamino)propoxy]-6-(trifluoromethyl)-3-pyridinecarbonitrile hydrochloride
1,1-Dimethylethyl [3-[[3-cyano-6-(trifluoromethyl)-2-pyridinyl]oxy]pentyl]methylcarbamate (170 mg) was dissolved in 4M HCl in dioxane (10 ml). The resulting solution was stirred at room temperature for 2 h, then the solvent was evaporated. The residue was recrystallised from diethyl ether/ethanol to give the title compound (100 mg) as a white solid.

reactant | 1,1-Dimethylethyl [3-[[3-cyano-6-(trifluoromethyl)-2-pyridinyl]oxy]pentyl]methylcarbamate | 170 mg | C(#N)C=1C(=NC(=CC1)C(F)(F)F)OC(CCN(C(OC(C)(C)C)=O)C)CC | C18H24F3N3O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-[1-Ethyl-3-(methylamino)propoxy]-6-(trifluoromethyl)-3-pyridinecarbonitrile hydrochloride | 100 mg | Cl.C(C)C(CCNC)OC1=NC(=CC=C1C#N)C(F)(F)F | InChI=1S/C13H16F3N3O.ClH/c1-3-10(6-7-18-2)20-12-9(8-17)4-5-11(19-12)13(14,15)16;/h4-5,10,18H,3,6-7H2,1-2H3;1H
